* Extracted by KLayout with GF180MCU LVS runset on : 14/08/2026 13:31

.SUBCKT perceptron V_w2 I_x2 V_b I_x1 VDD V_out_perceptron V_shift V_w1 VSS
X$1 \$7 \$12 \$20 \$2 VDD VSS voltage_reference
X$3 \$7 VDD V_out_perceptron \$2 \$3 \$4 VSS tanh_ota
X$5 \$7 \$12 \$10 V_w2 \$3 \$4 \$7 VSS gilbert_multiplier_current
X$7 \$7 \$12 \$29 V_w1 \$3 \$4 \$7 VSS gilbert_multiplier_current
X$8 \$7 \$12 \$20 V_b \$3 \$4 \$7 VSS gilbert_multiplier_current
X$16 \$12 \$10 \$12 I_x2 VSS cg_amp_tia
X$35 \$12 \$29 \$12 I_x1 VSS cg_amp_tia
R$1 \$3 VDD VSS 2433.33333333 ppolyf_u_1k L=7.3U W=3U
R$2 V_shift \$4 VSS 2433.33333333 ppolyf_u_1k L=7.3U W=3U
.ENDS perceptron

.SUBCKT voltage_reference v_1_65 v_1_25 v_1_15 v_0_7 VDD VSS
M$1 \$20 \$20 VSS VSS nfet_03v3 L=1U W=10U AS=4.35P AD=3.3P PS=16.74U PD=11.32U
M$3 v_0_7 \$20 VSS VSS nfet_03v3 L=1U W=10U AS=3.3P AD=4.35P PS=11.32U PD=16.74U
M$5 \$74 \$5 \$49 VSS nfet_03v3 L=2U W=10U AS=4.35P AD=3.3P PS=16.74U PD=11.32U
M$7 \$60 v_1_65 \$49 VSS nfet_03v3 L=2U W=10U AS=3.3P AD=4.35P PS=11.32U
+ PD=16.74U
M$9 \$81 \$6 \$51 VSS nfet_03v3 L=2U W=10U AS=4.35P AD=3.3P PS=16.74U PD=11.32U
M$11 \$62 v_1_25 \$51 VSS nfet_03v3 L=2U W=10U AS=3.3P AD=4.35P PS=11.32U
+ PD=16.74U
M$13 \$18 \$18 VSS VSS nfet_03v3 L=1U W=10U AS=4.35P AD=3.3P PS=16.74U PD=11.32U
M$15 v_1_15 \$18 VSS VSS nfet_03v3 L=1U W=10U AS=3.3P AD=4.35P PS=11.32U
+ PD=16.74U
R$17 \$2 \$3 VSS 15000 ppolyf_u_1k L=45U W=3U
R$18 \$6 \$3 VSS 3333.33333333 ppolyf_u_1k L=10U W=3U
M$19 \$20 \$2 \$42 VDD pfet_03v3 L=1U W=20U AS=7.15P AD=7.15P PS=27.86U
+ PD=27.86U
M$23 \$18 \$3 \$38 VDD pfet_03v3 L=1U W=20U AS=7.15P AD=7.15P PS=27.86U
+ PD=27.86U
M$27 v_1_15 v_1_15 \$38 VDD pfet_03v3 L=1U W=20U AS=7.15P AD=7.15P PS=27.86U
+ PD=27.86U
M$31 v_0_7 v_0_7 \$42 VDD pfet_03v3 L=1U W=20U AS=7.15P AD=7.15P PS=27.86U
+ PD=27.86U
M$35 \$38 \$71 VDD VDD pfet_03v3 L=1U W=20U AS=7.15P AD=7.15P PS=27.86U
+ PD=27.86U
M$39 \$42 \$71 VDD VDD pfet_03v3 L=1U W=20U AS=7.15P AD=7.15P PS=27.86U
+ PD=27.86U
M$43 \$71 \$71 VDD VDD pfet_03v3 L=1U W=10U AS=4.55P AD=4.55P PS=16.82U
+ PD=16.82U
R$45 VDD \$5 VSS 55000 ppolyf_u_1k L=165U W=3U
R$50 VSS \$2 VSS 23333.3333333 ppolyf_u_1k L=70U W=3U
R$51 \$5 \$6 VSS 13333.3333333 ppolyf_u_1k L=40U W=3U
R$56 \$9 VDD VSS 50000 ppolyf_u_1k L=150U W=3U
R$60 VSS \$71 VSS 50000 ppolyf_u_1k L=150U W=3U
M$64 \$9 \$9 VSS VSS nfet_03v3 L=1U W=10U AS=4.35P AD=4.35P PS=16.74U PD=16.74U
R$66 v_1_25 VSS VSS 10000 ppolyf_u_1k L=30U W=3U
R$68 v_1_65 VSS VSS 10000 ppolyf_u_1k L=30U W=3U
M$70 \$49 \$9 VSS VSS nfet_03v3 L=2U W=10U AS=4.35P AD=4.35P PS=16.74U PD=16.74U
M$72 \$51 \$9 VSS VSS nfet_03v3 L=2U W=10U AS=4.35P AD=4.35P PS=16.74U PD=16.74U
M$74 VDD \$60 v_1_65 VSS nfet_03v3 L=1U W=100U AS=29.5P AD=29.5P PS=115.9U
+ PD=115.9U
M$84 VDD \$62 v_1_25 VSS nfet_03v3 L=1U W=100U AS=29.5P AD=29.5P PS=115.9U
+ PD=115.9U
M$94 \$60 \$74 VDD VDD pfet_03v3 L=2U W=20U AS=7.15P AD=7.15P PS=27.86U
+ PD=27.86U
M$98 \$62 \$81 VDD VDD pfet_03v3 L=2U W=20U AS=7.15P AD=7.15P PS=27.86U
+ PD=27.86U
M$102 \$74 \$74 VDD VDD pfet_03v3 L=2U W=20U AS=7.15P AD=7.15P PS=27.86U
+ PD=27.86U
M$106 \$81 \$81 VDD VDD pfet_03v3 L=2U W=20U AS=7.15P AD=7.15P PS=27.86U
+ PD=27.86U
.ENDS voltage_reference

.SUBCKT tanh_ota V_ref VDD V_out V_bias V_in_n V_in_p VSS
M$1 \$5 V_in_p \$2 VSS nfet_03v3 L=0.5U W=10U AS=4.35P AD=3.3P PS=16.74U
+ PD=11.32U
M$3 V_out V_in_n \$2 VSS nfet_03v3 L=0.5U W=10U AS=3.3P AD=4.35P PS=11.32U
+ PD=16.74U
M$5 \$2 V_bias VSS VSS nfet_03v3 L=0.5U W=10U AS=4.35P AD=4.35P PS=16.74U
+ PD=16.74U
R$8 V_out V_ref VSS 24800 ppolyf_u_1k L=74.4U W=3U
M$13 V_out \$5 VDD VDD pfet_03v3 L=0.5U W=20U AS=9.1P AD=9.1P PS=31.82U
+ PD=31.82U
M$15 \$5 \$5 VDD VDD pfet_03v3 L=0.5U W=20U AS=9.1P AD=9.1P PS=31.82U PD=31.82U
.ENDS tanh_ota

.SUBCKT gilbert_multiplier_current V_tail V_x_p V_x_n V_w_p I_o_n I_o_p V_w_n
+ VSS
M$1 \$18 V_x_p \$4 VSS nfet_03v3 L=0.5U W=10U AS=3.475P AD=3.475P PS=15.28U
+ PD=15.28U
M$5 I_o_n V_w_p \$18 VSS nfet_03v3 L=0.5U W=10U AS=3.475P AD=2.95P PS=15.28U
+ PD=12.36U
M$9 I_o_p V_w_n \$18 VSS nfet_03v3 L=0.5U W=10U AS=2.95P AD=3.475P PS=12.36U
+ PD=15.28U
M$13 \$17 V_x_n \$5 VSS nfet_03v3 L=0.5U W=10U AS=3.475P AD=3.475P PS=15.28U
+ PD=15.28U
M$17 I_o_n V_w_n \$17 VSS nfet_03v3 L=0.5U W=10U AS=3.475P AD=2.95P PS=15.28U
+ PD=12.36U
M$21 I_o_p V_w_p \$17 VSS nfet_03v3 L=0.5U W=10U AS=2.95P AD=3.475P PS=12.36U
+ PD=15.28U
M$25 \$4 V_tail VSS VSS nfet_03v3 L=1U W=5U AS=2.175P AD=1.65P PS=9.24U PD=6.32U
M$27 \$5 V_tail VSS VSS nfet_03v3 L=1U W=5U AS=1.65P AD=2.175P PS=6.32U PD=9.24U
R$29 \$4 \$5 VSS 15400 ppolyf_u_1k L=46.2U W=3U
.ENDS gilbert_multiplier_current

.SUBCKT cg_amp_tia V_ref V_out V_bias I_in VSS
R$1 V_out V_ref VSS 2700 ppolyf_u_1k L=8.1U W=3U
M$2 V_out V_bias I_in VSS nfet_03v3 L=0.5U W=5U AS=2.175P AD=2.175P PS=9.24U
+ PD=9.24U
.ENDS cg_amp_tia
